US09216999B2
1-{[cis-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methyl}azetidin-3-ol
cis-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanecarbaldehyde (30.0 mg, 0.111 mmol) in methanol (2 mL), tetrahydrofuran (1 mL) and acetic acid (100 μL) was mixed with 3-hydroxyazetidine hydrochloride (41.3 mg, 0.334 mmol) and stirred at room temperature for 1 hour. The reaction mixture was mixed with 2-picoline borane (23.8 mg, 0.334 mmol) and stirred at room temperature for 14 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The aqueous layer was adjusted to pH 10 with 1 M aqueous sodium hydroxide, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was washed with hexane/ethyl acetate (5/1 (v/v)) to give the title compound as a colorless solid (7.40 mg, yield 31%).

reactant | cis-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanecarbaldehyde | 0.111 mmol, 30.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@H]3CC[C@H](CC3)C=O | C14H15N5O
reactant | 3-hydroxyazetidine hydrochloride | 0.334 mmol, 41.3 mg | Cl.OC1CNC1
reactant | 2-picoline borane | 0.334 mmol, 23.8 mg | B.N1=C(C=CC=C1)C
reactant | water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
product | 1-{[cis-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methyl}azetidin-3-ol | 7.40 mg, yield 31% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@H]3CC[C@H](CC3)CN3CC(C3)O | C17H22N6O
